US07179823B1
A mixture of ethyl 1-[4-(2-phenyl-4-thiazolylmethoxy)benzyl]-3-(2-thienyl)-1H-pyrazole-4-carboxylate (750 mg), 1N aqueous sodium hydroxide solution (3 ml), tetrahydrofuran (5 ml), and ethanol (5 ml) was stirred at 80° C. for 5 hours. After cooling, 1N hydrochloric acid (3 ml) was added to the mixture and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated aqueous sodium chloride solution, dried (MgSO4), and concentrated. The resulting colorless crystals were collected by filtration to obtain 1-[4-(2-phenyl-4-thiazolylmethoxy)benzyl]-3-(2-thienyl)-1H-pyrazole-4-carboxylic acid (640 mg, yield: 90%). This was recrystallized from acetone-hexane. Melting point: 187˜188° C.

reactant | ethyl 1-[4-(2-phenyl-4-thiazolylmethoxy)benzyl]-3-(2-thienyl)-1H-pyrazole-4-carboxylate | 750 mg | C1(=CC=CC=C1)C=1SC=C(N1)COC1=CC=C(CN2N=C(C(=C2)C(=O)OCC)C=2SC=CC2)C=C1 | C27H23N3O3S2
reactant | sodium hydroxide | 1N, 3 ml | [OH-].[Na+]
reactant | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
reactant | hydrochloric acid | 1N, 3 ml | Cl | ClH
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 1-[4-(2-phenyl-4-thiazolylmethoxy)benzyl]-3-(2-thienyl)-1H-pyrazole-4-carboxylic acid | 640 mg, yield: 90% | C1(=CC=CC=C1)C=1SC=C(N1)COC1=CC=C(CN2N=C(C(=C2)C(=O)O)C=2SC=CC2)C=C1 | C25H19N3O3S2
